US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (150 mg, 0.578 mmol), 1-[3-(dimethylamino)propyl]piperazine (112 mg, 0.654 mmol), Pd2(dba)3 (53 mg, 0.0578 mmol), rac-BINAP (108 mg, 0.173 mmol) and NaOtBu (139 mg, 1.445 mmol) in DMA (5 mL) was heated at 85° C. for 1 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Preparatory HPLC afforded 4-chloro-6-[4-(3-dimethylamino-propyl)-piperazin-1-yl]-2H-phthalazin-1-one hydroformate (38 mg) as a pale brown solid, 1H (400 MHz, d6-DMSO) δ: 1.66 (m, 2H), 2.30 (s, 6H), 2.34 (t, 2H), 2.53 (m, 6H), 3.43 (m, 4H), 7.09 (d, 1H), 7.55 (dd, 1H), 8.03 (d, 1H), 8.15 (s, 1H), 12.50 (s, 1H) ppm; m/z (M+1) 350.08.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.578 mmol, 150 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 1-[3-(dimethylamino)propyl]piperazine | 0.654 mmol, 112 mg | CN(CCCN1CCNCC1)C | C9H21N3
reactant | rac-BINAP | 0.173 mmol, 108 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 1.445 mmol, 139 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.0578 mmol, 53 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-chloro-6-[4-(3-dimethylamino-propyl)-piperazin-1-yl]-2H-phthalazin-1-one | 38 mg | ClC1=NNC(C2=CC=C(C=C12)N1CCN(CC1)CCCN(C)C)=O | C17H24ClN5O
